US05496927
N-(3,3,3-Trifluoro-2-oxo-propyl)benzamide
A solution of 7.57 g hippuric acid and 17.4 ml of trifluoroacetic anhydride in 60 ml of anhydrous acetone was stirred at 25° C. for 16 hours under N2 to yield a red precipitate, which is isolated by filtration. Refluxing the red solid in 50 ml of H2O for 1 hour gave a solution, which was extracted with AcOEt. The organic layer was dried (MgSO4) and flash evaporated to yield crude product which is recrystallized from benzene to give 4.15 g of analytically pure product; m.p. 105° C. (decomp).

reactant | hippuric acid | 7.57 g | C(CNC(=O)C1=CC=CC=C1)(=O)O | C9H9NO3
reactant | trifluoroacetic anhydride | 17.4 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | acetone | 60 ml | CC(=O)C | C3H6O
solvent | H2O | 50 ml | O | H2O
product | N-(3,3,3-Trifluoro-2-oxo-propyl)benzamide | FC(C(CNC(C1=CC=CC=C1)=O)=O)(F)F | C10H8F3NO2
